US04938790
Preparation of 1,1-Bis(2-hydroxyphenyl)cyclopropane.
1,1-Bis(2-methoxyphenyl)cyclopropane (10.0 g, 0.039 mole) was combined with 60 ml of dichloromethane and the mixture was cooled in an ice bath and then treated with 10.0 ml of bromodimethylborane with cooling and stirring. The starting material was consumed in less than 1 hour as determined by gas-liquid chromatography. The mixture was then diluted with 500 ml of ether and the resulting solution was extracted twice with water and then with water saturated with ammonium chloride, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 9.0 g (101 percent of theory) of the title compound as a brownish-black solid: m.p., 158-160° C. This eluted as one clean peak in gas-liquid chromatography and had a proton NMR spectrum consistent with the assigned structure.

reactant | 1,1-Bis(2-methoxyphenyl)cyclopropane | 0.039 mole, 10.0 g | COC1=C(C=CC=C1)C1(CC1)C1=C(C=CC=C1)OC | C17H18O2
reactant | bromodimethylborane | 10.0 ml | BrB(C)C | C2H6BBr
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 1,1-Bis(2-hydroxyphenyl)cyclopropane | OC1=C(C=CC=C1)C1(CC1)C1=C(C=CC=C1)O | C15H14O2
